data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2571,2852,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][N-:24][N+:25]([CH3:26])=[C:27]([C:28]#[N:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]([C:28]#[N:29])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[N:25]([CH3:26])[N:24]2[CH3:23],water,298.15,30.028138697965712,-15.84322768988315
1186,1290,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:17]([C:18](=[O:19])[O:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:15]([CH3:16])[CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,26.3004219258304,-38.79750107771058
1508,1663,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([NH+:21]=[CH:22][C:23]#[N:24])[C:25]([CH3:26])=[O:27].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:25]([CH3:26])=[O:27])[NH:21][CH:22]3[C:23]#[N:24],water,298.15,12.443357781705172,-40.57124183258728
1473,1627,[CH3:17][C-:18]([CH3:19])[NH+:20]=[CH:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][CH:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([CH:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:18]([CH3:17])([CH3:19])[NH:20][CH:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,18.045220010909592,-44.82438744334015
2844,3160,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28](=[O+:29][C-:30]([C:31]#[N:32])[C:33]([CH3:34])=[O:35])[C:36]([CH3:37])=[O:38]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:30]([C:31]#[N:32])([C:33]([CH3:34])=[O:35])[O:29][C:28]2([C:26]([O:25][CH3:24])=[O:27])[C:36]([CH3:37])=[O:38],water,298.15,12.28029296665362,-51.940187750832976
2463,2731,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([O+:21]=[C:22]([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][C:2]1([C:3]#[N:4])[C:5]#[C:6][C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2]1([C:3]#[N:4])[C:5]2=[C:6]([C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:22]([C:23]#[N:24])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[O:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,9.617226445482489,-67.30694738860694
756,818,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][N-:16][C:17]([CH3:18])=[O:19].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[CH:14]([C:12]([NH:11][CH3:10])=[O:13])[NH:15][N:16]3[C:17]([CH3:18])=[O:19],water,298.15,17.726532138994788,-35.949461128522
2302,2552,[CH3:12][O:13][C:14](=[O:15])[C-:16]([CH3:17])[N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:20]([C:21]([CH3:22])=[O:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:18]([CH3:19])[C:16]3([C:14]([O:13][CH3:12])=[O:15])[CH3:17],water,298.15,27.596862360797445,-36.25396544449956
2357,2618,[Br:1]/[C:2](=[C:3](\[Br:4])[c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[CH3:17][O:18][C:19](=[O:20])[CH:21]=[O+:22][C-:23]([C:24]#[N:25])[C:26]#[N:27]>>[Br:1][C@@:2]1([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[C@:3]([Br:4])([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:23]([C:24]#[N:25])([C:26]#[N:27])[O:22][CH:21]1[C:19]([O:18][CH3:17])=[O:20],water,298.15,19.96999008197142,-31.02337619313804
3188,3598,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][O-:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][O:16]1,water,298.15,18.24637500734596,-21.253598679018108
88,99,[CH3:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[N:17].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[N:17]=[N:16][C:14]2([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,26.422009362028323,-7.913255680852607
